US08871934B2
(+)-2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-2-hydroxymethyl-propane-1,3-diol
To a solution of an optically active form (28.3 g) of 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-hydroxy-2-hydroxymethyl-propionic acid in tetrahydrofuran (40 ml) were successively added dropwise at room temperature a 0.93M solution (225 ml) of borane-tetrahydrofuran complex in tetrahydrofuran and a 1.09M solution (32 ml) of borane-tetrahydrofuran complex in tetrahydrofuran, and the mixture was stirred for 3 hr. To the reaction mixture, ethanol (57 ml) was added dropwise at room temperature and the mixture was stirred at 80° C. for 1 hr. To this mixture were added water (150 ml) and saturated aqueous sodium hydrogen carbonate (100 ml), and the mixture was extracted twice with ethyl acetate (100 ml, 50 ml). The combined organic layer was successively washed twice with water (100 ml) and once with saturated brine (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. A solution of the obtained residue in ethanol (50 ml) was cooled to 0° C., sodium borohydride (2.3 g) was added thereto, and the mixture was stirred at room temperature for 2 hr. To the reaction mixture was added 1N hydrochloric acid (100 ml), and the mixture was extracted with ethyl acetate (100 ml). The separated aqueous layer was extracted again with ethyl acetate (50 ml). The combined organic layer was successively washed with water (100 ml), saturated aqueous sodium hydrogen carbonate (100 ml) and saturated brine (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform/methanol=20/1 to 9/1) to give the title compound (21.6 g).

reactant | 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-hydroxy-2-hydroxymethyl-propionic acid | 28.3 g | FC1=CC=2C(C3=CC=CC=C3C2C(=C1)C=1C=NN(C1)C(C(=O)O)(CO)CO)(C(F)(F)F)O | C21H16F4N2O5
reactant | ethanol | 57 ml | C(C)O | C2H6O
reactant | water | 150 ml | O | H2O
reactant | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (+)-2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-2-hydroxymethyl-propane-1,3-diol | 21.6 g | FC1=CC=2C(C3=CC=CC=C3C2C(=C1)C=1C=NN(C1)C(CO)(CO)CO)(C(F)(F)F)O | C21H18F4N2O4
